US04492710
(a) Methyl 5-dimethylaminomethyleneaminosulfonyl-3-nitro-4-(3-pyridyloxy)-benzoate
A solution of 200 g (0.57 mole) of methyl 4-chloro-5-dimethylaminomethyleneaminosulfonyl-3-nitro-benzoate and 93 g (0.7 mole) of potassium 3-hydroxypyridine in 1 l of dimethylformamide is stirred for 1.5 hours at 80° C. and, after cooling, is introduced into 4-5 l of ice-water, while stirring vigorously. The product which has precipitated is filtered off, washed with H2O and recrystallized from dimethylformamide/CH3OH.

reactant | methyl 4-chloro-5-dimethylaminomethyleneaminosulfonyl-3-nitro-benzoate | 0.57 mole, 200 g | ClC1=C(C=C(C(=O)OC)C=C1S(=O)(=O)N=CN(C)C)[N+](=O)[O-] | C11H12ClN3O6S
reactant | potassium 3-hydroxypyridine | 0.7 mole, 93 g | OC=1C=NC=CC1.[K]
solvent | dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | Methyl 5-dimethylaminomethyleneaminosulfonyl-3-nitro-4-(3-pyridyloxy)-benzoate | CN(C)C=NS(=O)(=O)C=1C(=C(C=C(C(=O)OC)C1)[N+](=O)[O-])OC=1C=NC=CC1 | C16H16N4O7S
